US20010027196A1
2-Amino-4-(2-methoxy-ethoxy)-6-(3,4,5-trimethoxy-phenyl)-pYrimidine-5-carbonitrile
From 2-amino-4-methanesulfonyl-6-(3,4,5-trimethoxy-phenyl)-pyrimidine-5-carbonitrile, 2-methoxyethanol and DBU in DME. EI-MS m/e (%): 360 (M+, 100), 302 (36), 287 (28), 259 (32), 43 (42).

reactant | 2-amino-4-methanesulfonyl-6-(3,4,5-trimethoxy-phenyl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)(=O)C)C#N)C1=CC(=C(C(=C1)OC)OC)OC | C15H16N4O5S
reactant | 2-methoxyethanol | COCCO | C3H8O2
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(2-methoxy-ethoxy)-6-(3,4,5-trimethoxy-phenyl)-pYrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)OCCOC)C#N)C1=CC(=C(C(=C1)OC)OC)OC | C17H20N4O5
